US06906090B1
1-(4-Bromobutyl)-7-phenyl-1H-indole-2,3-dione
The title compound was prepared according to the process step described in the text is from Page 7, line 34 to Page 8, line 5 of WO 94/29272 using 7-phenyl-1H-indole-2,3-dione and 1,4-dibromobutane.

reactant | 7-phenyl-1H-indole-2,3-dione | C1(=CC=CC=C1)C=1C=CC=C2C(C(NC12)=O)=O | C14H9NO2
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-(4-Bromobutyl)-7-phenyl-1H-indole-2,3-dione | BrCCCCN1C(C(C2=CC=CC(=C12)C1=CC=CC=C1)=O)=O | C18H16BrNO2
